US08530663B2
2-Hydroxymethyl-3′,4′,5′,6′-tetrahydro-2′H-[3,4]-bipyridinyl-1′-carboxylic Acid t-Butyl Ester
A solution of 3′,4′,5′,6′-tetrahydro-2′H-[3,4]bipyridinyl-2,1′-dicarboxylic acid 1′-t-butyl ester 2-methyl ester (1.9 g, 5.9 mmol, 1.0 eq.) in THF (50 mL) was maintained under nitrogen. To the mixture was added NaBH4 (1.1 g, 29.5 mmol, 5.0 eq.), followed by the dropwise addition of MeOH (15 mL), while stirring at 0° C. The resulting solution was stirred for 30 minutes at room temperature. The resulting solution was diluted with EtOAc (150 mL). The resulting mixture was washed with a saturated solution of NH4Cl (1×100 mL), then with saturated aqueous NaCl (2×100 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:1) to yield the title compound (860 mg) as a white solid. MS m/z: [M+H]+ calcd for C16H25N2O3, 293. found 293.

reactant | 3′,4′,5′,6′-tetrahydro-2′H-[3,4]bipyridinyl-2,1′-dicarboxylic acid 1′-t-butyl ester 2-methyl ester | 5.9 mmol, 1.9 g, 1.0 eq. | COC(=O)C1=NC=CC=C1C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O4
reactant | NaBH4 | 29.5 mmol, 1.1 g, 5.0 eq. | [BH4-].[Na+]
reactant | MeOH | 15 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 2-Hydroxymethyl-3′,4′,5′,6′-tetrahydro-2′H-[3,4]-bipyridinyl-1′-carboxylic Acid t-Butyl Ester | 860 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C(=NC=CC1)CO | C16H24N2O3
